US08791136B2
1-tert-Butyloxycarbonyl-3,3-difluoro-4-benzylaminopiperidine
To a solution of 1-tert-butyloxycarbonyl-3,3-difluoro-4-oxopiperidine (Synthonix, 0.100 g, 0.426 mmol, 1.0 eq) in dichloromethane (1.5 mL) was added benzylamine (0.070 mL, 0.638 mmol, 1.5 eq) followed by sodium triacetoxyborohydride (0.180 g, 0.851 mmol, 2.0 eq). The reaction was stirred at room temperature for 16 hours before adding Rochelle's salt (2 mL) and stirring for 1 hour. The reaction mixture was partitioned between NaHCO3 (50 mL) and CH2Cl2 (50 mL). The aqueous phase was extracted with CH2Cl2 (2×50 mL). The combined organics were washed with brine (50 mL), dried (Na2SO4) and concentrated under reduced pressure. MPLC (30→70% EtOAc-hexane) yielded the title compound (0.045 g, 32%) as a colourless oil; 1H nmr (CDCl3) δ 7.33 (4H, m, 4H of C6H5), 7.27 (1H, m, 1H of C6H5), 4.02 (1H, m), 3.92 (2H, s, CH2C6H5), 3.76 (1H, m), 3.32 (1H, ddd, J 21.5, 14.0, 4.5 Hz), 3.11 (1H, m), 2.97 (1H, m), 1.90 (1H, m), 1.67-1.59 (1H, m), 1.46 (9H, s, C(CH3)3); 19F nmr (CDCl3) δ −109.0 (dd, J 243.0, 115.5 Hz), −119.5 (d, J 251.0 Hz); m/z: 327 [M+H]+.

reactant | 1-tert-butyloxycarbonyl-3,3-difluoro-4-oxopiperidine | 0.426 mmol, 0.100 g, 1.0 eq | C(C)(C)(C)OC(=O)N1CC(C(CC1)=O)(F)F | C10H15F2NO3
reactant | benzylamine | 0.638 mmol, 0.070 mL, 1.5 eq | C(C1=CC=CC=C1)N | C7H9N
reactant | sodium triacetoxyborohydride | 0.851 mmol, 0.180 g, 2.0 eq | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Rochelle's salt | 2 mL | [C@@H]([C@H](C(=O)[O-])O)(C(=O)[O-])O.[Na+].[K+]
solvent | dichloromethane | 1.5 mL | ClCCl | CH2Cl2
product | 1-tert-Butyloxycarbonyl-3,3-difluoro-4-benzylaminopiperidine | 0.045 g, 32% | C(C)(C)(C)OC(=O)N1CC(C(CC1)NCC1=CC=CC=C1)(F)F | C17H24F2N2O2
